US04405628
1,3-Dihydro-4-ethyl-5-[3,4-difluoro(thiobenzoyl)]-2H-imidazole-2-thione
Ten grams of 1,3-dihydro-4-ethyl-5-(3,4-difluorobenzoyl)-2H-imidazole-2-thione in toluene and phosphorus pentasulfide was heated at reflux temperature for 5 hours. Evaporation of the solvent provides the title compound.

reactant | 1,3-dihydro-4-ethyl-5-(3,4-difluorobenzoyl)-2H-imidazole-2-thione | Ten grams | C(C)C=1NC(NC1C(C1=CC(=C(C=C1)F)F)=O)=S | C12H10F2N2OS
reactant | phosphorus pentasulfide | P12(=S)SP3(=S)SP(=S)(S1)SP(=S)(S2)S3 | P4S10
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 1,3-Dihydro-4-ethyl-5-[3,4-difluoro(thiobenzoyl)]-2H-imidazole-2-thione | C(C)C=1NC(NC1C(C1=CC(=C(C=C1)F)F)=S)=S | C12H10F2N2S2
